US07737166B2
2-Cyclopropyl-6-dimethylamino-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-4-carbonitrile (#152)
6-Dimethylamino-2-Cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-321) (34 mg, 0.10 mmol) was dissolved in dimethyl sulfide (4 ml), then triethylamine (29 μl, 0.20 mmol) and (3S)-3-(dimethylamino)pyrrolidine (27 μl, 0.21 mmol) were added, followed by stirring under nitrogen atmosphere at 100° C. for 24 hours. After cooled, this was concentrated under reduced pressure, diluted with chloroform, and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was purified by preparative TLC (eluent, chloroform:methanol=10:1, v/v) to obtain the entitled compound (20 mg, 64%) as a white crystal.

reactant | 6-Dimethylamino-2-Cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.10 mmol, 34 mg | CN(C=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F)C | C14H14FN3O
reactant | triethylamine | 0.20 mmol, 29 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.21 mmol, 27 μl | CN([C@@H]1CNCC1)C | C6H14N2
solvent | dimethyl sulfide | 4 ml | CSC | C2H6S
product | 2-Cyclopropyl-6-dimethylamino-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-4-carbonitrile | 20 mg, 64% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)N(C)C)C)C#N | C20H27N5O
